US05310920
A mixture comprising 6.0 g of 1-(1-propenyl)-2nitroiminoimidazolidine, 7.0 g of potassium carbonate, 70 ml of DMSO and 7.4 g of 2-chloro-5-chloromethylpyridine was stirred at 60° C. for one hour. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried (with anhydrous MgSO4) and concentrated to give an oily residue. This was purified by column chromatography (silica gel, eluent: ethyl acetate/hexane=2/1) to give 8.6 g of 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino -3- (1propenyl)imidazolidine.

reactant | 1-(1-propenyl)-2nitroiminoimidazolidine | 6.0 g | C(=CC)N1C(NCC1)=N[N+](=O)[O-] | C6H10N4O2
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 70 ml | CS(=O)C | C2H6OS
reactant | 2-chloro-5-chloromethylpyridine | 7.4 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | water | O | H2O
product | 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino -3- (1propenyl)imidazolidine | 8.6 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=CC)=N[N+](=O)[O-] | C12H14ClN5O2
